* Z:\Projects\OSS-Radio\hardware\LTSpice Drawings\MOSFET RF front end amplifier.asc
* Generated by LTspice 24.1.5 for Windows.
M1 N002 N009 0 0 AFT09MS007N
V2 N001 0 60
C1 N008 N009 100µF
R1 N007 0 50R
V1 N003 0 2.4
R2 N003 N009 50
V3 N008 0 SINE(0 .05 140meg) AC 1 Rser=0
L1 N001 N002 39nH
C2 N001 N002 10pF
C3 N004 N002 27pF
C4 N006 N005 27pF
C5 0 N005 15pF
L2 N005 0 33nH
L3 N006 N007 18nH
L4 N004 N005 18nH
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ben\AppData\Local\LTspice\lib\cmp\standard.mos
* .tran 0 .0000001 0 .0000000001
.model AFT09MS007N VDMOS(Rg=0.1 Rd=0.0545 Rs=0.0545 Vto=2.1 Kp=16 Lambda=0 Cgdmax=5p Cgdmin=2.7p Cgs=104.3p Cjo=53.3p M=0.5 Vj=0.7)
.ac oct 1000 60meg 700meg
* .tran 0 1 0 startup
.backanno
.end
